US05589478
N-{6-{2-(5-Aminopyridin-2-yloxy )ethoxy}-5-(4-methylphenyl)-pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide and pivaloyl chloride are treated in the same manner as in Example 135 to give N-[6-[2-{6-(4-tert-butylphenylsulfonylamino)-5-(4-methylphenyl)pyrimidin-4-yloxy}ethoxy]pyridin-3-yl]-pivalamide.

reactant | N-{6-{2-(5-Aminopyridin-2-yloxy )ethoxy}-5-(4-methylphenyl)-pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide | NC=1C=CC(=NC1)OCCOC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C | C28H31N5O4S
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | N-[6-[2-{6-(4-tert-butylphenylsulfonylamino)-5-(4-methylphenyl)pyrimidin-4-yloxy}ethoxy]pyridin-3-yl]-pivalamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC=N1)OCCOC1=CC=C(C=N1)NC(C(C)(C)C)=O)C1=CC=C(C=C1)C | C33H39N5O5S
